US08895545B2
Preparation of (E)-3-((E)-2,2-dimethyl-3-(methylimino)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide hydrochloride
Reagents and conditions: a) PCl5, μwave then NH2Me, b) N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide, DIPEA, Pd(OAc)2, P(o-Tol)3, DMF, then HCl. a) (E)-N-(7-bromo-2,2-dimethyl-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-ylidene)methanamine: A dichloroethane (5 mL) solution of 7-bromo-2,2-dimethyl-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one (520 mg, 2 mmol) and phosphorus pentachloride (840 mg, 4 mmol) was irradiated in a microwave oven for 10 min at. 160° C. The solution was cooled to −78° C. and methylamine (2M in THF) was added it slowly until it became permanently basic. The mixture was diluted with CH2Cl2, washed with dilute solution of NaOH, dried, and evaporated. Crystallization from CH2Cl2/hexane afforded 480 mg (89%) of the title compound. 1H NMR (300 MHz, CDCl3, δ) 8.07 (d, J=2.1 Hz, 1H), 7.21 (d, J=2.1 Hz, 1H), 4.9 (s, br, 1H), 3.06 (d, J=4.5 Hz, 3H), 1.46 (s, 6H). MS (ESI) m/e 270 (M+H)+. b) (E)-3-((E)-2,2-dimethyl-3-(methylimino)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide: A DMF (3 mL) solution of (E)-N-(7-bromo-2,2-dimethyl-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-ylidene)methanamine (271 mg, 1 mmol), N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide (345 mg, 1.5 mmol) and diisopropylethylamine (0.52 mL, 3 mmol) was purged with Argon for 10 min. Pd(OAc)2 (24 mg, 0.1 mmol) and P(o-tol)3 (61 mg, 0.2 mmol) was added and then the Argon purge was repeated. The mixture was irradiated in a microwave oven for 10 min at 160° C. under Argon. Upon cooling, the mixture was diluted with water and extracted with EtOAc. The crude product was purified by chromatography (silica, 0-4% MeOH in CH2Cl2). The free base was turned into the HCl salt by addition of HCl (1 ml, 1M m Et2O) to its CH2Cl2 solution and evaporation to afford 230 mg (55%) of the title compound, as a mixture of amide rotamers. 1H NMR (300 MHz, CDCl3, δ, free base) 8.20 (s, 1H), 7.69 and 7.85 (2s, 1H), 7.5-6.7 (m, 6H), 5.14 (s, br, 1H), 4.83 and 4.71 (2s, 2H), 3.21 and 3.10 (2s, 3H), 3.09 (d, J=4.8 Hz, 3H), 2.31 (s, 3H), 1.49 (s, 6H). MS (ESI) m/e 419 (M+H)+.

reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | NH2Me | NC | CH5N
reactant | N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide | CN(C(C=C)=O)CC=1OC2=C(C1C)C=CC=C2 | C14H15NO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | P(o-Tol)3 | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | HCl | Cl | ClH
reactant | (E)-N-(7-bromo-2,2-dimethyl-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-ylidene)methanamine | BrC1=CC=2OC(/C(/NC2N=C1)=N\C)(C)C | C10H12BrN3O
reactant | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
reactant | 7-bromo-2,2-dimethyl-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 2 mmol, 520 mg | BrC1=CC=2OC(C(NC2N=C1)=O)(C)C | C9H9BrN2O2
reactant | phosphorus pentachloride | 4 mmol, 840 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methylamine | 2M | CN | CH5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | CN(C)C=O | C3H7NO
product | (E)-3-((E)-2,2-dimethyl-3-(methylimino)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide hydrochloride | 480 mg, 89% | Cl.CC1(\C(\NC2=C(O1)C=C(C=N2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C)=N/C)C | InChI=1S/C24H26N4O3.ClH/c1-15-17-8-6-7-9-18(17)30-20(15)14-28(5)21(29)11-10-16-12-19-22(26-13-16)27-23(25-4)24(2,3)31-19;/h6-13H,14H2,1-5H3,(H,25,26,27);1H/b11-10+;
